US05198014
To a stirred solution of 0.4 gram (0.001 mole) of 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid in 25 mL of acetone were added in succession 0.2 gram (0.001 mole) of potassium carbonate and 0.2 gram (0.001 mole) of 1,1-dimethylethyl bromoacetate. Upon completion of the addition, the reaction mixture was stirred at 25° C. for 25 minutes, and then it was heated to reflux where it was stirred for one hour. After this time, the reaction mixture was cooled and concentrated under reduced pressure to a residue. The residue was shaken with methylene chloride and water. The organic layer was washed with water and then dried with calcium sulfate. The mixture was filtered through silica gel. The silica gel filter pad was washed with petroleum ether. The combined filtrates were concentrated under reduced pressure, yielding 0.5 gram of 1,1-dimethylethoxycarbonylmethyl 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylate; m.p. 110°-112 ° C. The nmr spectrum was consistent with the proposed structure.

reactant | 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylic acid | 0.001 mole, 0.4 gram | C(#N)C=1C=NN(C1C=CC(=O)O)C1=NC=C(C=C1Cl)C(F)(F)F | C13H6ClF3N4O2
reactant | potassium carbonate | 0.001 mole, 0.2 gram | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1-dimethylethyl bromoacetate | 0.001 mole, 0.2 gram | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | acetone | 25 mL | CC(=O)C | C3H6O
product | 1,1-dimethylethoxycarbonylmethyl 3-[4-cyano-1-(3-chloro-5-trifluoromethylpyridin-2-yl)-1H-pyrazol-5-yl]acrylate | 0.5 gram | C(#N)C=1C=NN(C1C=CC(=O)OC(C)(C)C(=O)OCC)C1=NC=C(C=C1Cl)C(F)(F)F | C19H16ClF3N4O4
